US07179801B2
To a solution of 5-amino-1-(2-hydroxyethyl)-1H-pyrazole-4-carbaldehyde (40.2 g) in pyridine (400 ml) was added triphenylmethyl chloride (86.7 g) at room temperature. The mixture was stirred at 60° C. for 5 hours. The reaction mixture was evaporated under reduced pressure and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, filtered, and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with ethyl acetate/hexane (3:2) to give 5-amino-1-(2-triphenylmethyloxyethyl)-1H-pyrazole-4-carbaldehyde (62.8 g).

reactant | 5-amino-1-(2-hydroxyethyl)-1H-pyrazole-4-carbaldehyde | 40.2 g | NC1=C(C=NN1CCO)C=O | C6H9N3O2
reactant | triphenylmethyl chloride | 86.7 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
product | 5-amino-1-(2-triphenylmethyloxyethyl)-1H-pyrazole-4-carbaldehyde | 62.8 g | NC1=C(C=NN1CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=O | C25H23N3O2
